US09193689B2
3-Chloro-5-methyl-2H-isoquinolin-1-one (50 mg, 0.26 mmol), 2-(4-methylpiperazin-1-yl)pyrimidine-5-boronic acid pinacol ester (118 mg, 0.39 mmol), K2CO3 (73 mg, 0.52 mmol) and Pd(dppf)Cl2 (10 mg, 0.013 mmol) in DME/EtOH/H2O 4:0.5:1 (2.75 mL) were added to a microwave vial and the reaction mixture purged with N2 for 10 min. The reaction mixture was irradiated using a microwave reactor (300 W, 100° C., 60 min). The reaction mixture was filtered through celite and concentrated in vacuo. The crude material was purified by silica gel column chromatography, eluting with CH2Cl2 and increasing the polarity to 50% MeOH/CH2Cl2. The crude material was trituared with MeOH and washed with isohexane to afford 5-methyl-3-[2-(4-methyl-piperazin-1-yl)-pyrimidin-5-yl]-2H-isoquinolin-1-one as an off-white solid (28 mg, 32%).

reactant | 3-Chloro-5-methyl-2H-isoquinolin-1-one | 0.26 mmol, 50 mg | ClC=1NC(C2=CC=CC(=C2C1)C)=O | C10H8ClNO
reactant | 2-(4-methylpiperazin-1-yl)pyrimidine-5-boronic acid pinacol ester | 0.39 mmol, 118 mg | CN1CCN(CC1)C1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C15H25BN4O2
reactant | K2CO3 | 0.52 mmol, 73 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME EtOH H2O | 2.75 mL | COCCOC.CCO.O
catalyst | Pd(dppf)Cl2 | 0.013 mmol, 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-methyl-3-[2-(4-methyl-piperazin-1-yl)-pyrimidin-5-yl]-2H-isoquinolin-1-one | 28 mg, 32% | CC1=C2C=C(NC(C2=CC=C1)=O)C=1C=NC(=NC1)N1CCN(CC1)C | C19H21N5O
